US07795283B2
iii) trans-Ethyl 2-[4-(4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)cyclohexyl]propanoate
Ethyldiisopropylamine (1.6 mL) and N-phenyltrifluoromethanesulfonimide (4.12 g, 11.5 mmol) was added sequentially, each in portions over 1 minute, to a stirred solution of trans-ethyl 2-[4-(4-hydroxyphenyl)cyclohexyl]propanoate (2.6 g, 9.23 mmol) in DCM (25 mL) at 5° C. The reaction mixture was warmed to room temperature and stirred for 18 h and then an aqueous solution of sodium hydroxide (2M, 30 mL) was added. The layers were separated and the organic layer was washed with H2O (30 mL), dried and concentrated in vacuo to leave a residue. The residue was purified by column chromatography, eluting with 0-20% EtOAc in isohexane as eluent, to give the title compound (3.6 g, 96%) as an oil; 1H NMR δ (CDCl3) 1.0-1.25 (2H, m), 1.1 (3H, d), 1.2 (3H, t), 1.3-1.45 (2H, m), 1.5-1.64 (2H, m), 1.7-1.79 (1H, m), 1.8-1.95 (3H, m), 2.17-2.28 (1H, m), 2.38-2.48 (1H, m), 4.1 (2H, q), 7.1 (2H, d), 7.2 (2H, d).

reactant | Ethyldiisopropylamine | 1.6 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N-phenyltrifluoromethanesulfonimide | 11.5 mmol, 4.12 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | trans-ethyl 2-[4-(4-hydroxyphenyl)cyclohexyl]propanoate | 9.23 mmol, 2.6 g | OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C(=O)OCC)C | C17H24O3
reactant | sodium hydroxide | 2M, 30 mL | [OH-].[Na+]
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | trans-Ethyl 2-[4-(4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)cyclohexyl]propanoate | 3.6 g, 96% | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)C(C(=O)OCC)C)(F)F | C18H23F3O5S
